US08486962B2
Iron powder (0.5 g, 8.92 mmol) was added portion wise to a solution of 2-(4-nitrophenyl)-thiazole (200 mg, 0.97 mmol) in acetic acid (5 ml) and stirred at room temperature for 2 hr. The reaction mixture was diluted with water, basified with dilute sodium hydroxide, filtered and the filtrate was extracted with ethyl acetate. The organic layer was washed with water, brine and dried. Evaporation of the solvent yielded 4-thiazol-2-yl-phenylamine (150 mg, 88%) as solid.

reactant | 2-(4-nitrophenyl)-thiazole | 0.97 mmol, 200 mg | [N+](=O)([O-])C1=CC=C(C=C1)C=1SC=CN1 | C9H6N2O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
catalyst | Iron | 8.92 mmol, 0.5 g | [Fe] | Fe
product | 4-thiazol-2-yl-phenylamine | 150 mg, 88% | S1C(=NC=C1)C1=CC=C(C=C1)N | C9H8N2S
